Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Papillary thyroid carcinoma of the follicular variant.

 
Major Surgical or Invasive Procedure:
Completion thyroidectomy (left thyroidlobectomy) plus 
intraoperative nerve monitoring.

 
History of Present Illness:
The patient is a ___ woman who underwent a right 
hemithyroidectomy approximately 2 weeks ago. Report was 
consistent with a papillary thyroid carcinoma and it was 
multifocal with additional micropapillary carcinoma present. In 
addition, one lymph node contained metastatic disease. The 
patient was now scheduled for completion thyroidectomy. The 
patient saw Dr. ___ in ENT yesterday and a laryngoscopy 
revealed normal conditions on both sides with a normal motility 
of both vocal cords. On the patient's request, she also had an 
ultrasound yesterday specifically looking for evidence of distal 
metastatic lymph nodes.  The ultrasound did not show any 
suspicion of
metastatic lymph nodes. The patient now presents for completion 
thyroidectomy today.

 
Past Medical History:
none 
 
Physical Exam:
General: Patient appears well, post-operative pain undercontrol, 
tol reg diet
Neuro: A&OX3
Neck: Anterior neck thyroidectomy incision intact, well 
approximately, closed with steri-strips, no drainage, no edema
Cardiac: RRR
Pulm: No respiratory distress.

 
Pertinent Results:
___ 01:00PM BLOOD Calcium-8.9
___ 08:20AM BLOOD Calcium-7.7*
 
Brief Hospital Course:
The patient was admitted to the inpatient ward post-operatively 
from a completion thyroidectomy (left thyroid lobectomy) plus 
intraoperative nerve monitoring. The patient did well 
post-operatively. ___ the patients serum calcium level was 
___. The patient recieved 2gm of calcium gluconate 
intravenously, as well as calcium carbonate 3000mg by mouth. Her 
calcium level was repeated at 1400 on ___ and was 8.9. The 
patient was then discharged on the appropriate medication 
regimen and follow-up. 

 
Medications on Admission:
Multivitamin
 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: Four (4) 
Tablet, Chewable PO three times a day.
Disp:*360 Tablet, Chewable(s)* Refills:*2*
2. Liothyronine 25 mcg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).
Disp:*30 Tablet(s)* Refills:*2*
3. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every eight (8) hours as needed for pain: DO NOT take more than  
4000mg of tylenol in 24 hours. Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papillary thyroid carcinoma of the ollicular variant.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after having a Completion 
thyroidectomy (left thyroid lobectomy) plus intraoperative nerve 
monitoring for treatment of Papillary Thyroid Carcinoma in the 
right lobe of your thyroid. You tolerated this procedure well, 
have adequate pain control, and have tolerated a regular diet. 
You are ready to be discharged home. Because your thyroid has 
been removed you will be taking a medication called Liothyronine 
for Thyroid Hormone replacement. 

It is important for you to monitor the quality of your voice. If 
you are unable to speak or your voice becomes hoarse please ___ 
the office. There is a risk of developing low calium in the 
blood after this procedure. The thyroid gland is very close to 
the parathyroid glands which are very important for controling 
the calcium level in your blood. Please monitor for signs and 
symptoms of hypocalcemia which include: numbness or tingling of 
the hands and face, muscle spasms, confusion, or siezures. If 
you have any of these symptoms please seek medical attention, if 
they are severe go to the emergency room. You will be taking 
calcium carbonate to maintain your calcium level as well as a 
medication called Calcitriol. Please take these medications as 
written on the prescription. You calcium level will be monitored 
again at your follow-up. If you feel tingling in your hands or 
feet you may take 6 extra calcium carbonate tablets, it they do 
not resolve ___ the office. 

Your incision line is closed with sutures and steri-strips. It 
is important to monitor the incision line for signs and symptoms 
of infection. These signs include: green or white drainage from 
the site, increasing redness, or increased pain around the 
incision that is not relieved with medication. You may shower, 
let the water run over the incision and pat dry, do not rub. The 
incision line may be kept uncovered however if it becomes 
irritated you may cover the incision with a dry sterile gauze 
dressing as you wish. Dr. ___ will look at the incision 
at your follow-up visit.

You will be prescribed the medication Vicodin 
(hydrocodone-acetaminophen) for pain. It is important to follow 
the directions on the prescription as ordered, avoid taking 
medications with added tylenol (vicodin contains tylenol), do 
not drink alcohol with this medication, and do not drive while 
taking this medication. Also you should not take more than 
4000mg of tylenol in a 24 hour time period.
 
Followup Instructions:
___